US08044076B2
In an oven-dried round bottom flask Mg turnings (1.13 g, 46.6 mmol) are suspended in THF (1 mL). 1-Bromo-3-methylbutane (6.37 g, 46.5 mmol) is carefully added while the mixture is initially heated to reflux. The mixture is stirred for approximately 30 min until the Mg has dissolved. The mixture is then added to a cold (5° C.) solution of ZnBr2 (10.47 g, 46.5 mmol) in THF (80 mL). The thick suspension is stirred at 0° C. for 20 min before it is cooled to −75° C. 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride dichloromethane complex (184 mg, 0.225 mmol) followed by methyl-3-bromobenzoate (5.0 g, 23.3 mmo) is then added. The mixture is warmed to rt and stirred for 24 h. The reaction mixture is diluted with water and extracted with EA. The org. extract is dried over MgSO4, filtered and evaporated. The crude product is purified by CC on silica gel eluting with heptane:EA 20:1 to give methyl 3-isobutyl-benzoate (4.34 g) as a colourless oil. This material is dissolved in methanol (50 mL) and 2 N aq. LiOH (10 mL) and stirred at rt for 16 h. The mixture is acidified by adding 1 N aq. HCl and extracted with EA. The org. extracts are dried over MgSO4, filtered and evaporated to give 3-isobutyl-benzoic acid (3.84 g) as a colourless oil; LC-MS: tR=0.91 min; 1H NMR (CDCl3): δ 0.87 (d, J=6.7 Hz, 6H), 1.77-1.94 (m, 1H), 2.48 (d, J=7.0 Hz, 2H), 7.29-7.35 (m, 2H), 7.86 (s, 1H), 7.88-7.94 (m, 1H).

reactant | 1-Bromo-3-methylbutane | 46.5 mmol, 6.37 g | BrCCC(C)C | C5H11Br
reactant | methyl-3-bromobenzoate | 5.0 g | COC(C1=CC(=CC=C1)Br)=O | C8H7BrO2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | ZnBr2 | 46.5 mmol, 10.47 g | [Zn+2].[Br-].[Br-]
product | methyl 3-isobutyl-benzoate | 4.34 g | C(C(C)C)C=1C=C(C(=O)OC)C=CC1 | C12H16O2
